US04886810
In the same manner as described in Example 5, a mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, cis-3-amino-4-methylpyrrolidine, and pyridine was stirred at 50° C. for 30 minutes to give 7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 264°-265° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | cis-3-amino-4-methylpyrrolidine | N[C@@H]1CNC[C@@H]1C | C5H12N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-(cis-3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | N[C@@H]1CN(C[C@@H]1C)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F | C18H18F3N3O3
